US04695312
4-Chloro-5-difluoromethoxy-2-fluoronitrobenzene XII-1
To 0.53 g of 2-chloro-4-fluoro-5-nitrophenol XV-1 were added 3 ml of isopropanol, 3 ml of water and 0.72 g of sodium hydroxide, and the resultant mixture was heated at 50° to 60° C. while introducing chlorodifluoromethane gas for 4 hours. The mixture was stirred for 4 hours and during that period mixed twice with 0.50 g of sodium hydroxide at intervals of 1.5 hours. After cooling, the reaction mixture was neutralized with 2N hydrochloride acid and shaken with dichloromethane. The dichloromethane layer was dried and concentrated. The residue was chromatographed on a column of silica gel, eluting with n-hexane-ethylacetate (100:5 v/v). The eluate was concentrated to give 0.24 g of the titled compound XII-1.

reactant | 2-chloro-4-fluoro-5-nitrophenol | 0.53 g | ClC1=C(C=C(C(=C1)F)[N+](=O)[O-])O | C6H3ClFNO3
reactant | sodium hydroxide | 0.72 g | [OH-].[Na+]
reactant | chlorodifluoromethane | ClC(F)F | CHClF2
reactant | sodium hydroxide | 0.50 g | [OH-].[Na+]
reactant | hydrochloride | 2N | Cl | ClH
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | water | 3 ml | O | H2O
solvent | isopropanol | 3 ml | C(C)(C)O | C3H8O
product | 4-Chloro-5-difluoromethoxy-2-fluoronitrobenzene | 0.24 g | ClC1=CC(=C(C=C1OC(F)F)[N+](=O)[O-])F | C7H3ClF3NO3
